US07084154B2
A solution of 2,6,6-trimethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene (387 mg) and p-toluenesulfonic acid monohydrate (31 mg) was stirred in 5 mL of 1:1 water:acetone. The mixture was diluted with 50 mL of dichloromethane and 50 mL of saturated sodium hydrogen carbonate. The aqueous layer was re-extracted with 50 mL more dichloromethane and the combined organics were dried over sodium sulfate. Evaporation of the solvent gave 250 mg of 2-methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one, which was converted to 2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamine by using Procedure X.

reactant | 2,6,6-trimethoxy-6,7,8,9-tetrahydro-5H-benzocycloheptene | 387 mg | COC=1C=CC2=C(CCCC(C2)(OC)OC)C1 | C14H20O3
reactant | p-toluenesulfonic acid monohydrate | 31 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
product | 2-methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one | 250 mg | COC=1C=CC2=C(CCCC(C2)=O)C1 | C12H14O2
